US06951870B2
(a) 3-(4-Chloro-phenyl)-7,8-dimethoxy-6-nitro-chromen-2-one
2-Hydroxy-3,4-dimethoxy-5-nitro-benzaldehyde (2.44 g), 4-chlorophenyl acetic acid (1.82 g), PhOPOCl2 (1.6 ml) and triethylamine (4.5 ml) in 1,2-dichloroethane (125 ml) were refluxed for 5 hours as described in example 1(a). Yield: 2.40 g.

reactant | 2-Hydroxy-3,4-dimethoxy-5-nitro-benzaldehyde | 2.44 g | OC1=C(C=O)C=C(C(=C1OC)OC)[N+](=O)[O-] | C9H9NO6
reactant | 4-chlorophenyl acetic acid | 1.82 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | PhOPOCl2 | 1.6 ml | C1(=CC=CC=C1)OP(=O)(Cl)Cl | C6H5Cl2O2P
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 125 ml | ClCCCl | C2H4Cl2
product | 3-(4-Chloro-phenyl)-7,8-dimethoxy-6-nitro-chromen-2-one | ClC1=CC=C(C=C1)C=1C(OC2=C(C(=C(C=C2C1)[N+](=O)[O-])OC)OC)=O | C17H12ClNO6
